US06077851
5-Ethyl isatoic anhydride
4-Ethyl isatin (3.1 g, 0.018 mol) was added to a mixture of conc. sulphuric acid (45 l) in acetic acid (14 ml). The suspension was warmed to 30° C., hydrogen peroxide 35% (2.2 ml) was added and after the addition the temperature was raised to 65° C. After being heated for 3 hours, the mixture was cooled and the precipitate filtered off, washed with water and dried to give the title compound (1.7 g), yield 48%.

reactant | 4-Ethyl isatin | 0.018 mol, 3.1 g | C(C)C1=C2C(C(NC2=CC=C1)=O)=O | C10H9NO2
reactant | sulphuric acid | 45 l | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 2.2 ml | OO | H2O2
reactant | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
product | 5-Ethyl isatoic anhydride | 1.7 g, yield 48% | C(C)C1=CC=C2C(C(=O)OC(N2)=O)=C1 | C10H9NO3
